US07507740B2
(ii) Production of [4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]acetic acid
Ethyl[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]acetate (221.2 mg) was dissolved in a mixed solvent of tetrahydrofuran (1.5 mL)/ethanol (1.5 mL), 1N aqueous sodium hydroxide solution (0.6 mL) was added, and the mixture was stirred at room temperature for 30 min. The reaction mixture was adjusted to pH 2-3 with 1N hydrochloric acid and extracted with a mixed solvent of ethyl acetate/tetrahydrofuran=1/1. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was collected by filtration and dried to give the title compound (169.8 mg) as a yellow powder.

reactant | Ethyl[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]acetate | 221.2 mg | C(C)OC(CN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl)=O | C23H18ClF3N4O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 0.6 mL | [OH-].[Na+]
product | [4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]acetic acid | 169.8 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CC(=O)O | C21H14ClF3N4O3
